US08859773B2
A solution of ethyl 5-bromo-1-tert-butyl-1H-pyrazole-4-carboxylate (685 mg, 2.49 mmol) in THF (20 mL) was cooled to −78° C. and treated with diisobutylaluminum hydride (7.47 mL, 7.47 mmol, 1 M THF), dropwise. The mixture was stirred at −78° C. for 30 minutes and then warmed to room temperature for 18 hours. The mixture was quenched with ethyl acetate 10 mL) and stirred 15 minutes. The mixture was then treated with saturated aqueous Rochelle's salt (25 mL) and stirred 1 hour at room temperature. The mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (10-80% ethyl acetate/heptane gradient, 25 g silica gel) to yield 460 mg of (5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methanol as a clear oil. +APCI (M+H) 233.1, (M+2+H) 235.1; 1H NMR (400 MHz, CDCl3, δ): 7.51 (s, 1H), 4.53 (d, 2H), 1.74 (s, 9H), 1.55 (t, J=5.8 Hz, 1H).

reactant | ethyl 5-bromo-1-tert-butyl-1H-pyrazole-4-carboxylate | 2.49 mmol, 685 mg | BrC1=C(C=NN1C(C)(C)C)C(=O)OCC | C10H15BrN2O2
reactant | diisobutylaluminum hydride | 7.47 mmol, 1 M, 7.47 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methanol | 460 mg | BrC1=C(C=NN1C(C)(C)C)CO | C8H13BrN2O
